US05420151
3-(N-Allylamino)-5-methoxychroman (1.3 g, 5.9 mmol) prepared analogous to example 26, n-propyl iodide (2.1 mL, 21 mmol) , anhyrous K2CO3 (3.0 g, 21 mmol) and acetonitrile (5.5 mL) were stirred under N2 at 47° C. (oilbath temp) for five days until GC indicated complete reaction. Ether (40 mL) was added, the salts were filtered off by suction and the clear filtrate was concentrated in vacuo to afford 3-(N-allyl-N-n-propylamino)-5-methoxy chroman (1.24 g, 81% yield) as an oil. The base was precipitated from an ether solution by adding a slight excess of HCl (approx. 3M in ether). Crystallization of the crude HCl salt afforded colourless needles. Mp 117°-118° C.

reactant | 3-(N-Allylamino)-5-methoxychroman | 5.9 mmol, 1.3 g | C(C=C)NC1COC2=CC=CC(=C2C1)OC | C13H17NO2
reactant | n-propyl iodide | 21 mmol, 2.1 mL | C(CC)I | C3H7I
reactant | K2CO3 | 21 mmol, 3.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetonitrile | 5.5 mL | C(C)#N | C2H3N
solvent | Ether | 40 mL | CCOCC | C4H10O
product | 3-(N-allyl-N-n-propylamino)-5-methoxy chroman | 1.24 g, 81% yield | C(C=C)N(CCC)C1COC2=CC=CC(=C2C1)OC | C16H23NO2
